US07081454B2
(S)-4-(1-Benzyl-2-hydroxy-ethylamino)-3-(4-methyl-6-morpholin-4-yl-1H-benzimidazol-2-yl)-1H-pyridin-2-one:
A mixture of (S)-4-(1-benzyl-2-trityloxy-ethylamino)-3-[6-bromo-4-methyl-1H-benzimidazol-2-yl]-1H-pyridin-2-one (150 mg, 0.216 mmol), morpholine (28.2 mg, 0.324 mmol), palladium acetate (2.4 mg, 0.01 mmol), tri-tert-buylphosphine (4.4 mg, 0.02 mmol), and sodium tert-butoxide (104 mg, 1.08 mmol) in toluene (5 mL) was heated to 100° C. for 14 h under nitrogen. The reaction mixture was cooled to room temperature and diluted with EtOAc. After extraction, the combined organic layers were washed with water, brine, dried over Na2SO4. Concentration gave a brownish residue, which was treated with 4 N HCl dioxane solution (3 mL) at room temperature for 6 h. After removal of the solvent, the residue was purified by prep. HPLC to yield the title compound (18 mg, 18%). 1H NMR (400 MHz, CD3OD) δ 7.59 (1H, s), 7.12–7.28 (7H, m), 6.12 (1H, d, J=7.6 Hz), 4.01–4.08 (5H, m), 3.76 (1H, dd, J=4.8, 11.1 Hz), 3.71 (1H, dd, J=5.2, 11.1 Hz), 3.32–3.10 (4H, m), 3.09 (1H, dd, J=5.6, 13.7 Hz), 2.92 (1H, dd, J=8.0, 13.7 Hz), 2.65 (3H, s). LCMS (M+H)+ m/z 460 (t=1.30 min.).

reactant | (S)-4-(1-benzyl-2-trityloxy-ethylamino)-3-[6-bromo-4-methyl-1H-benzimidazol-2-yl]-1H-pyridin-2-one | 0.216 mmol, 150 mg | C(C1=CC=CC=C1)[C@@H](COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC1=C(C(NC=C1)=O)C1=NC2=C(N1)C=C(C=C2C)Br | C41H35BrN4O2
reactant | morpholine | 0.324 mmol, 28.2 mg | N1CCOCC1 | C4H9NO
reactant | tri-tert-buylphosphine | 0.02 mmol, 4.4 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | sodium tert-butoxide | 1.08 mmol, 104 mg | CC(C)([O-])C.[Na+]
reactant | HCl dioxane | 4 N, 3 mL | O1CCOCC1.Cl
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | palladium acetate | 0.01 mmol, 2.4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (S)-4-(1-Benzyl-2-hydroxy-ethylamino)-3-(4-methyl-6-morpholin-4-yl-1H-benzimidazol-2-yl)-1H-pyridin-2-one | 18 mg, 18% | C(C1=CC=CC=C1)[C@@H](CO)NC1=C(C(NC=C1)=O)C1=NC2=C(N1)C=C(C=C2C)N2CCOCC2 | C26H29N5O3
